US04247700
2-(4-Hydroxy-1-piperidylmethyl)propenenitrile
Cyanoacetic acid (8.5 g., 0.1 mole) was dissolved in 25 ml. of dioxane. 4-Hydroxypiperidine (10.1 g., 0.1 mole) was added within two minutes; the resultant slurry temperature rose to 33° C. After 1 hour of mixing, 37% aqueous formaldehyde (17 g., 0.2 mole) was run in over a 12 minute period. The temperature rose to 38° C. and carbon dioxide evolved steadily. All was in solution after about one-half of the formaldehyde was added and an additional twelve hours was used to complete the reaction. It was then stripped using a bath at 46° C. and 1-5 mm. of pressure. The residual oil, 17 g., was taken up in methylene chloride, washed with water, dried and stripped to leave 8.1 g. of nearly colorless product, b.p. 125° C./1 mm.

reactant | Cyanoacetic acid | 0.1 mole, 8.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | 4-Hydroxypiperidine | 0.1 mole, 10.1 g | OC1CCNCC1 | C5H11NO
reactant | formaldehyde | 0.2 mole, 17 g | C=O | CH2O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(4-Hydroxy-1-piperidylmethyl)propenenitrile | OC1CCN(CC1)CC(C#N)=C | C9H14N2O
